US04138581
When cycloheptanecarbonyl chloride is substituted for the cyclohexanecarbonyl chloride in the procedure described in Example 15A above, the acylation product obtained is 3,4-bis(cycloheptanecarbonyloxy)phenyl tert-butylaminomethyl ketone; and when this product is catalytically hydrogenated using the procedure described in Example 15B above, there is obtained 3,4-bis(cycloheptanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol.

reactant | cycloheptanecarbonyl chloride | C1(CCCCCC1)C(=O)Cl | C8H13ClO
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 3,4-bis(cycloheptanecarbonyloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(=O)C1CCCCCC1)OC(=O)C1CCCCCC1 | C28H41NO5
product | 3,4-bis(cycloheptanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol | C1(CCCCCC1)C(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(=O)C1CCCCCC1 | C28H43NO5
